US03978121
B. 3-chloro-5-(3-ethylaminopropyl)-5H-dibenzo[a,d]cycloheptene
3-Chloro-5-(3-acetamidopropyl)-5H-dibenzo[a,d]cycloheptene is dissolved in absolute ether. The solution is added dropwise to a stirred solution of lithium aluminum hydride in ether, containing 1.25 molar equivalents of the hydride. The mixture is stirred for 2 hours at room temperature, then for 15 hours at reflux. The mixture then is cooled and stirred while water is added cautiously followed by sodium hydroxide solution. The ether layer is separated, washed with water and dried over sodium sulfate. The product is obtained by evaporation of the ether and purified by vacuum distillation.

reactant | 3-Chloro-5-(3-acetamidopropyl)-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CCCNC(C)=O)C1 | C20H20ClNO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydride | [H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-chloro-5-(3-ethylaminopropyl)-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CCCNCC)C1 | C20H22ClN
